US04507498
A mixture of 1.16 g (0.006 mole) of 1-(2,4-dihydroxy-3-propylphenyl)ethanone, 2.93 g (0.006 mole) of [4-acetyl-3-[2-[2-[2-[(methylsulfonyl)oxy]ethoxy]ethoxy]ethoxy]-2-propylphenoxy]acetic acid ethyl ester and 1.65 g (0.012 mole) of anhydrous potassium carbonate in 50 ml of anhydrous acetone and 25 ml of anhydrous dimethylformamide was stirred at reflux for 21 hours. The solvents were removed in vacuo and the residue was purified by HPLC using 40% ethyl acetate-hexane to give 2.45 g (70% yield) of [4-acetyl-3-[2-[2-[2-(4-acetyl-3-hydroxy-2-propylphenoxy)ethoxy]ethoxy]ethoxy]-2-propylphenoxy]acetic acid ethyl ester as an oil.

reactant | 1-(2,4-dihydroxy-3-propylphenyl)ethanone | 0.006 mole, 1.16 g | OC1=C(C=CC(=C1CCC)O)C(C)=O | C11H14O3
reactant | [4-acetyl-3-[2-[2-[2-[(methylsulfonyl)oxy]ethoxy]ethoxy]ethoxy]-2-propylphenoxy]acetic acid ethyl ester | 0.006 mole, 2.93 g | C(C)OC(COC1=C(C(=C(C=C1)C(C)=O)OCCOCCOCCOS(=O)(=O)C)CCC)=O | C22H34O10S
reactant | potassium carbonate | 0.012 mole, 1.65 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 50 ml | CC(=O)C | C3H6O
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | [4-acetyl-3-[2-[2-[2-(4-acetyl-3-hydroxy-2-propylphenoxy)ethoxy]ethoxy]ethoxy]-2-propylphenoxy]acetic acid ethyl ester | 2.45 g, 70% yield | C(C)OC(COC1=C(C(=C(C=C1)C(C)=O)OCCOCCOCCOC1=C(C(=C(C=C1)C(C)=O)O)CCC)CCC)=O | C32H44O10
